.circuit
V1 N010 GND 20
E1 N007 GND N005 GND 10
R1 N005 GND 15
R2 N009 N010 30
R3 N008 N007 5
R4 GND N008 100
I1 N006 N003 10
R5 N004 N010 14
R6 GND N006 10
R7 N003 N004 69
F1 GND N002 V2 3
R8 N002 GND 100
V2 N005 N009 0
H1 N001 GND V2 10
R9 N001 GND 30
.end
